US07507736B2
f) 6-Bromo-5-methoxy-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
A solution of 20.0 g (67.1 mmol) 6-bromo-5-methoxy-1H-indole-2-carboxylic acid ethyl ester (prepared according to Chem. Pharm. Bull. 1990, 38, 59-64), 17.6 g (80.5 mmol) di-tert-butyl dicarbonate and 0.82 g (6.71 mmol) 4-dimethylaminopyridine in 200 mL dichloromethane was stirred at room temperature for 1 h. The volatile components were evaporated under reduced pressure and the residue was purified by flash chromatography on silica gel with n-hexane:ethyl acetate (4:1 v/v) as eluant to afford 26.9 g (100%) of the compound as a light-yellow oil.

reactant | 6-bromo-5-methoxy-1H-indole-2-carboxylic acid ethyl ester | 67.1 mmol, 20.0 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OC)Br | C12H12BrNO3
reactant | di-tert-butyl dicarbonate | 80.5 mmol, 17.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 6.71 mmol, 0.82 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 6-Bromo-5-methoxy-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 26.9 g, 100% | CCOC(=O)C=1N(C2=CC(=C(C=C2C1)OC)Br)C(=O)OC(C)(C)C | C17H20BrNO5
